US04272507
3.44 g (10 mmoles) of 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid ethyl ester are dissolved in 10 ml of ethanol with 1 g of potassium hydroxide until a homogeneous solution has formed--after 10 minutes. The solution is diluted with 50 ml of water, acidified and extracted with ethyl acetate; the organic phase is dried and concentrated. Recrystallization from cyclohexane with a little toluene yields 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid.

reactant | 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid ethyl ester | 10 mmoles, 3.44 g | C(C)OC(C(=O)C=1SC=CC1NC1=C(C=CC=C1Cl)Cl)=O | C14H11Cl2NO3S
reactant | potassium hydroxide | 1 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 3-(2,6-dichloroanilino)-2-thiophenglyoxylic acid | ClC1=C(NC2=C(SC=C2)C(C(=O)O)=O)C(=CC=C1)Cl | C12H7Cl2NO3S
